US05604256
Allyl 7-[5-benzyloxyimino-2-methyl-8-(2-methylbutyryloxy)-3-oxo-1,2,3,5,6,7,8,8a-octahydro-1-naphthyl]-3hydroxy-5-oxoheptanoate (allyl ester of Compound No. 1)
182 μl (1.3 mmole) of trifluoroacetic anhydride were dissolved in 2 ml of anhydrous toluene, and the resulting solution was cooled to -78° C. 1 ml of anhydrous toluene in which 121 μl (1.71 mmole) of dimethyl sulfoxide had been dissolved was then added dropwise under an atmosphere of nitrogen to the cooled solution over a period of 5 minutes. After the addition was complete, the mixed solution was stirred for 3 minutes, and then 3 ml of anhydrous toluene, in which 500 mg (0.86 mmole) of allyl 7-[5-benzyloxyimino-2-methyl-8-(2-methylbutyryloxy)-3-oxo-1,2,3,5,6,7,8,8a-octahydro-1-naphthyl]-3,5-dihydroxyheptanoate (prepared as described in Preparation 1) had been dissolved, were added dropwise over a period of 15 minutes. The solution was stirred for 15 minutes at -78° C., and then 0.6 ml (4.3 mmole) of triethylamine was added dropwise over a period of 5 minutes. The resulting reaction mixture was stirred for 20 minutes at -78° C. and for a further 40 minutes at 0° C. At the end of this time, 30 ml of a 10% w/v aqueous solution of citric acid was added to the reaction mixture, and the mixture was extracted at room temperature with ethyl acetate. The ethyl acetate extract was washed with a saturated aqueous solution of sodium hydrogencarbonate and then with a saturated aqueous solution of sodium chloride, after which it was dried over anhydrous magnesium sulfate, filtered and condensed by evaporation under reduced pressure. The resulting oily residue was purified by flash column chromatography through silica gel, using a 2:1 by volume mixture of ethyl acetate and hexane as the eluent, to obtain 183 mg (yield 48%) of the title compound. At that time, 166 mg of unreacted starting material was also recovered.

reactant | trifluoroacetic anhydride | 1.3 mmole, 182 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | dimethyl sulfoxide | 1.71 mmole, 121 μl | CS(=O)C | C2H6OS
reactant | allyl 7-[5-benzyloxyimino-2-methyl-8-(2-methylbutyryloxy)-3-oxo-1,2,3,5,6,7,8,8a-octahydro-1-naphthyl]-3,5-dihydroxyheptanoate | 0.86 mmole, 500 mg | C(C1=CC=CC=C1)ON=C1C2=CC(C(C(C2C(CC1)OC(C(CC)C)=O)CCC(CC(CC(=O)OCC=C)O)O)C)=O | C33H45NO8
reactant | triethylamine | 4.3 mmole, 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | Allyl 7-[5-benzyloxyimino-2-methyl-8-(2-methylbutyryloxy)-3-oxo-1,2,3,5,6,7,8,8a-octahydro-1-naphthyl]-3hydroxy-5-oxoheptanoate | 183 mg, yield 48% | C(C1=CC=CC=C1)ON=C1C2=CC(C(C(C2C(CC1)OC(C(CC)C)=O)CCC(CC(CC(=O)OCC=C)O)=O)C)=O | C33H43NO8
